US08293905B2
To a reaction container equipped with a cooling apparatus, 2.61 g of tetrakis(triphenylphosphine)palladium, 6.75 g of 2-bromo-5-cyclohexyldimethylsilylpyridine obtained in the above-mentioned Example 2-1 and 135 mL of tetrahydrofuran were added. To the obtained mixture, 45.26 mL of 2-pyridyl zinc bromide (0.5 M/tetrahydrofuran solution) was added with stirring at room temperature. The obtained mixture was stirred at 50° C. for 9 hours to effect reaction. The reaction mixture was cooled until room temperature and then, 200 mL of 28% aqueous ammonia solution was added thereto. The obtained mixture was extracted three times with 230 mL of chloroform. The obtained organic layers were mixed and dried with magnesium sulfate. After removing magnesium sulfate by filtration, the filtrate was concentrated to obtain a crude product. The crude product was purified with silica gel column chromatography followed by further distillation to obtain 4.04 g of 5-cyclohexyldimethylsilyl-2,2′-bipyridine.

reactant | 2-bromo-5-cyclohexyldimethylsilylpyridine | 6.75 g | BrC1=NC=C(C=C1[SiH](C)C)C1CCCCC1 | C13H20BrNSi
reactant | 2-pyridyl zinc bromide | 0.5 M, 45.26 mL | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | ammonia | 200 mL | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium | 2.61 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 135 mL | O1CCCC1 | C4H8O
product | 5-cyclohexyldimethylsilyl-2,2′-bipyridine | 4.04 g | C1(CCCCC1)C=1C=C(C(=NC1)C1=NC=CC=C1)[SiH](C)C | C18H24N2Si
